US08304419B2
Step C: Ethyl 3-bromo-5-[(2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}ethyl)oxy]-1H-indole-2-carboxylate
NBS (0.137 g, 0.771 mmol) was added to ethyl 5-[(2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}ethyl)oxy]-1H-indole-2-carboxylate (0.255 g, 0.701 mmol) dissolved in DMF (2 mL) and the resulting mixture was stirred overnight at RT. The reaction mixture was partitioned between EtOAc and water. The organic layer was separated, dried over MgSO4, filtered and the solvent evaporated. Purification was accomplished by silica gel column chromatography (0 to 50% EtOAc/hexanes) to afford the title compound (0.121 g, 39%) as an oily solid. 1H NMR (400 MHz, CDCl3) δ ppm 8.90 (br. s., 1H), 7.27 (d, 1H), 7.02-7.07 (m, 1H), 7.01 (s, 1H), 4.43 (q, 2H), 4.11 (t, 2H), 4.00 (t, 2H), 1.43 (t, 3H), 0.91 (s, 9H), 0.11 (d, 6H). LC-MS (ES+) m/z 442.2 [M+H].

reactant | NBS | 0.771 mmol, 0.137 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | ethyl 5-[(2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}ethyl)oxy]-1H-indole-2-carboxylate | 0.701 mmol, 0.255 g | CC(C)(C)[Si](OCCOC=1C=C2C=C(NC2=CC1)C(=O)OCC)(C)C | C19H29NO4Si
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | Ethyl 3-bromo-5-[(2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}ethyl)oxy]-1H-indole-2-carboxylate | 0.121 g, 39% | BrC1=C(NC2=CC=C(C=C12)OCCO[Si](C)(C)C(C)(C)C)C(=O)OCC | C19H28BrNO4Si
